US07238714B2
Step 1. Methyl 5-chloro-2-(4-fluorobenzyl)nicotinate
To a stirred solution of methyl 2,5-dichloronicotinate (Journal of Chemical and Engineering Data 1981, 26, 332, 350 mg, 1.70 mmol) and tetrakis(triphenylphosphine)palladium(0) (196 mg, 0.17 mmol) in tetrahydrofuran (6 mL) was added a 0.5 M solution of 4-fluorobenzylzinc chloride in tetrahydrofuran (4.08 mL, 2.04 mmol) at 0° C. under nitrogen. The resulting mixture was heated at 60° C. for 16 h. The mixture was poured into water (50 mL) and the aqueous mixture was extracted with ethyl acetate (100 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by flush column chromatography on silica gel eluting with hexane/ethyl acetate (6/1) to afford 416 mg (88%) of the title compounds as colorless oil: 1H-NMR (CDCl3) δ 8.64 (1H, d, J=2.6 Hz), 8.17 (1H, d, J=2.6 Hz), 7.24–7.20 (2H, m), 6.96–6.90 (2H, m), 4.50 (2H, s), 3.89 (3H, s).

reactant | methyl 2,5-dichloronicotinate | 1.70 mmol, 350 mg | ClC1=C(C(=O)OC)C=C(C=N1)Cl | C7H5Cl2NO2
reactant | 4-fluorobenzylzinc chloride | [Cl-].FC1=CC=C(C[Zn+])C=C1
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 mmol, 196 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 2.04 mmol, 4.08 mL | O1CCCC1 | C4H8O
product | Methyl 5-chloro-2-(4-fluorobenzyl)nicotinate | 416 mg, 88% | ClC=1C=NC(=C(C(=O)OC)C1)CC1=CC=C(C=C1)F | C14H11ClFNO2
